**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Radial Leaded Wire Wound Inductor
* Matchcode:             WE-TIS
* Library Type:          LTspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/10/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1111_7447471010_1u  1 2
Rp 1 2 2383
Cp 1 2 1.073p
Rs 1 N3 0.005
L1 N3 2 0.940318u
.ends 1111_7447471010_1u 
*******
.subckt 1111_7447471027_2.7u  1 2
Rp 1 2 4617
Cp 1 2 1.32p
Rs 1 N3 0.009
L1 N3 2 2.455u
.ends 1111_7447471027_2.7u 
*******
.subckt 1111_7447471039_3.9u  1 2
Rp 1 2 6055
Cp 1 2 1.339p
Rs 1 N3 0.011
L1 N3 2 3.388u
.ends 1111_7447471039_3.9u 
*******
.subckt 1111_7447471047_4.7u  1 2
Rp 1 2 7760
Cp 1 2 1.45p
Rs 1 N3 0.012
L1 N3 2 4.486u
.ends 1111_7447471047_4.7u 
*******
.subckt 1111_7447471068_6.8u  1 2
Rp 1 2 9432
Cp 1 2 1.456p
Rs 1 N3 0.016
L1 N3 2 5.897u
.ends 1111_7447471068_6.8u 
*******
.subckt 1111_7447471100_10u  1 2
Rp 1 2 13243
Cp 1 2 1.265p
Rs 1 N3 0.024
L1 N3 2 9.108u
.ends 1111_7447471100_10u 
*******
.subckt 1111_7447471101_100u  1 2
Rp 1 2 37332
Cp 1 2 16.534p
Rs 1 N3 0.21
L1 N3 2 93.932u
.ends 1111_7447471101_100u 
*******
.subckt 1111_7447471102_1000u  1 2
Rp 1 2 172673
Cp 1 2 18.972p
Rs 1 N3 2.1
L1 N3 2 960.378u
.ends 1111_7447471102_1000u 
*******
.subckt 1111_7447471151_150u  1 2
Rp 1 2 71152
Cp 1 2 14.521p
Rs 1 N3 0.29
L1 N3 2 150.905u
.ends 1111_7447471151_150u 
*******
.subckt 1111_7447471220_22u  1 2
Rp 1 2 16663
Cp 1 2 4.804p
Rs 1 N3 0.035
L1 N3 2 19.931u
.ends 1111_7447471220_22u 
*******
.subckt 1111_7447471221_220u  1 2
Rp 1 2 71879
Cp 1 2 17.175p
Rs 1 N3 0.43
L1 N3 2 207.046u
.ends 1111_7447471221_220u 
*******
.subckt 1111_7447471222_2200u  1 2
Rp 1 2 234835
Cp 1 2 21.144p
Rs 1 N3 4.7
L1 N3 2 2183u
.ends 1111_7447471222_2200u 
*******
.subckt 1111_7447471330_33u  1 2
Rp 1 2 26453
Cp 1 2 8.518p
Rs 1 N3 0.057
L1 N3 2 30.662u
.ends 1111_7447471330_33u 
*******
.subckt 1111_7447471331_330u  1 2
Rp 1 2 82754
Cp 1 2 16.108p
Rs 1 N3 0.67
L1 N3 2 345.721u
.ends 1111_7447471331_330u 
*******
.subckt 1111_7447471332_3300u  1 2
Rp 1 2 329770
Cp 1 2 21.329p
Rs 1 N3 7
L1 N3 2 3073u
.ends 1111_7447471332_3300u 
*******
.subckt 1111_7447471470_47u  1 2
Rp 1 2 27946
Cp 1 2 13.523p
Rs 1 N3 0.086
L1 N3 2 44.968u
.ends 1111_7447471470_47u 
*******
.subckt 1111_7447471471_470u  1 2
Rp 1 2 69937
Cp 1 2 20.263p
Rs 1 N3 0.96
L1 N3 2 438.646u
.ends 1111_7447471471_470u 
*******
.subckt 1111_7447471472_4700u  1 2
Rp 1 2 356226
Cp 1 2 24.338p
Rs 1 N3 9.9
L1 N3 2 4300u
.ends 1111_7447471472_4700u 
*******
.subckt 1111_7447471682_6800u  1 2
Rp 1 2 338983
Cp 1 2 22.462p
Rs 1 N3 13.3
L1 N3 2 6596u
.ends 1111_7447471682_6800u 
*******
.subckt 8075_744731102_1000u  1 2
Rp 1 2 175200
Cp 1 2 9.68p
Rs 1 N3 1.85
L1 N3 2 1041u
.ends 8075_744731102_1000u 
*******
.subckt 8075_744731152_1500u  1 2
Rp 1 2 369740
Cp 1 2 10.256p
Rs 1 N3 2.3
L1 N3 2 1510u
.ends 8075_744731152_1500u 
*******
.subckt 8075_744731222_2200u  1 2
Rp 1 2 402510
Cp 1 2 11.06p
Rs 1 N3 3.8
L1 N3 2 2015u
.ends 8075_744731222_2200u 
*******
.subckt 8075_744731331_330u  1 2
Rp 1 2 140000
Cp 1 2 8.6433p
Rs 1 N3 0.65
L1 N3 2 316.9u
.ends 8075_744731331_330u 
*******
.subckt 8075_744731332_3300u  1 2
Rp 1 2 595000
Cp 1 2 6.4073p
Rs 1 N3 6.2
L1 N3 2 3136.94u
.ends 8075_744731332_3300u 
*******
.subckt 8075_744731471_470u  1 2
Rp 1 2 159120
Cp 1 2 10.5p
Rs 1 N3 0.8
L1 N3 2 454.44u
.ends 8075_744731471_470u 
*******
.subckt 8075_744731472_4700u  1 2
Rp 1 2 620000
Cp 1 2 6.4073p
Rs 1 N3 9.1
L1 N3 2 4586.65u
.ends 8075_744731472_4700u 
*******
.subckt 8075_744731562_5600u  1 2
Rp 1 2 680000
Cp 1 2 7.054p
Rs 1 N3 12
L1 N3 2 5536.09u
.ends 8075_744731562_5600u 
*******
.subckt 8075_744731680_68u  1 2
Rp 1 2 34320
Cp 1 2 8.92p
Rs 1 N3 0.17
L1 N3 2 70.85u
.ends 8075_744731680_68u 
*******
.subckt 8075_744731681_680u  1 2
Rp 1 2 344446
Cp 1 2 8.318p
Rs 1 N3 1.3
L1 N3 2 649.73u
.ends 8075_744731681_680u 
*******
.subckt 8075_744731822_8200u  1 2
Rp 1 2 576200
Cp 1 2 7.636p
Rs 1 N3 12.5
L1 N3 2 8830.7u
.ends 8075_744731822_8200u 
*******
